US06002008
N-{4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl}-4-dipropylamino-2-butynamide
Partially dissolved 1.28 g (7.0 mmol) 4-dipropylamino-2-butynoic acid in 100 ml THF and chilled to 0° C. under N2. Added 974 μl (8.85 mmol) N-methylmorpholine 768 μl (5.90 mmol) isobutyl chloroformate and stirred for 30 minutes. Added a solution of 1.00 g (2.95 mmol) ) 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile in 8 ml pyridine. At two hours, quenched with ice water and extracted with ethyl acetate. Dried organic layer with magnesium sulfate, reduced solvent to a small volume and loaded onto a column of silica gel. Eluted with ethyl acetate, stripped solvent from desired fractions and dried in vacuo, giving 764 mg of yellow solid: mass spectrum (electrospray m/e): M+H=504, 506.4.

reactant | 4-dipropylamino-2-butynoic acid | 7.0 mmol, 1.28 g | C(CC)N(CC#CC(=O)O)CCC | C10H17NO2
reactant | N-methylmorpholine | 8.85 mmol, 974 μl | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | N-{4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl}-4-dipropylamino-2-butynamide | 764 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CCN(CCC)CCC)=O)C#N | C26H26BrN5O
